US04782155
Preparation of 6,7-dihydroxyisoquinoline hydrobromide monohydrate
1.9 g (10 mmol) of 6,7-dimethoxyisoquinoline was dissolved in a mixture of 15 ml of acetic acid and 15 ml of 40% hydrobromic acid, and the solution was stirred under reflux for 24 hours under a nitrogen atmosphere. The reaction solution was concentrated under reduced pressure. The residue was recrystallized from a 1N hydrobromic acid aqueous solution to obtain 2.3 g (yield: 88.4%) of the above identified compound. The melting point, infrared spectrum and NMR spectrum agreed to those of the compound of Example 10.

reactant | 6,7-dimethoxyisoquinoline | 10 mmol, 1.9 g | COC=1C=C2C=CN=CC2=CC1OC | C11H11NO2
reactant | hydrobromic acid | 15 ml | Br | BrH
solvent | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
product | 6,7-dihydroxyisoquinoline hydrobromide monohydrate | yield: 88.4% | O.Br.OC=1C=C2C=CN=CC2=CC1O | InChI=1S/C9H7NO2.BrH.H2O/c11-8-3-6-1-2-10-5-7(6)4-9(8)12;;/h1-5,11-12H;1H;1H2
